Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Penicillins / aspirin
 
Attending: ___
 
Chief Complaint:
Left-sided weakness
 
Major Surgical or Invasive Procedure:
N/A

 
History of Present Illness:
Ms. ___ is a pleasant ___ woman with
hypertension, hyperlipidemia, type 2 diabetes, intermittent
vertigo, and gastritis who presents with left-sided weakness and
numbness.  History was obtained with the assistance of a ___
interpreter.  A code stroke was called due to the possibility of
a last known well at 11:30 AM while she was at ___.  On
further history however her focal neurologic symptoms actually
started last evening.

She developed a headache on ___ that was gradual.  Felt like
someone hit her on the back of her head.  Over the course of the
day and into the night the headache progressed and seemed to get
worse.  Associated with photophobia and phonophobia, nausea but
no vomiting.  Worse with lying down flat better with sitting up. 

It was at its absolute worst on ___ night around 11 ___. 
Yesterday evening, she also developed sudden onset left neck 
pain
that was constant.  She has not visited any chi___
recently nor was she involved in any recent trauma.  She was in 
a
motor vehicle accident back in ___ of this year, where she
was on the highway and another car hit the back of her car.  
Does
not lift heavy weights, no quick head turns.  She took some
Tylenol which seemed to help it a little bit but did not make 
the
headache go away entirely.  This headache woke her up from sleep
around 2 AM this morning.  She was able to fall back asleep but
then was awakened again by the pain at 5 AM.  She was unable to
fall back asleep at that time.

She went to her ___ diabetes clinic this morning but noticed
that she was having quite a hard time moving the left side of 
her
body as she was getting ready.  She reports that this actually
perhaps started last night after dinner some time.  She had
checked her blood pressure routinely and noticed that it was 160
systolic.  She then noticed that her left arm felt quite heavy,
and she had a hard time lifting it above her head.  When she 
went
to drink water before going to bed, some water spilled out of 
the
left corner of her mouth.  She went to bed because she thought
she was just tired, but then this morning upon getting up, she
noticed that she was having a hard time walking.  She had
difficulty lifting her left leg as she was walking.  When she 
was
taking her shower this morning, she was unable to lift her left
arm above her head.  When she was getting dressed, she had to 
put
her left arm through the sleeve of her short sleeve shirt first
and then had to very slowly pull the shirt over her head.  She
was unable to put on any pants so actually chose to wear a skirt
despite it being 30°F outside because it was easier to slip on. 
She had to lie down in bed in order to put the scar over both of
her legs because it was very difficult to lift her left leg.  
She
also reported this morning that her left face, arm, and leg felt
numb.  She actually had bitten the inside of her lip but did not
feel it.

As she was getting up out of bed and getting dressed, she also
reports that she felt like the room was spinning.  The room was
not spinning when she was lying down in bed, but then when she
got up, the room started to spin.  Unclear how long this lasted
for, but it did go away and she was able to get to the
appointment without any further symptoms.  While she was at
___, the vertigo started again that has since subsided.  In
the emergency room here, she notices double vision in her left
eye.  It is present even when her right eye is closed.  When
closing her left eye, there is no double vision.  She reports
that the images are side by side especially looking towards the
left.  There was further away and better looking close up.  This
has never happened before.

Of note, she is not on any aspirin due to history of gastritis. 
She is currently on warfarin 5 mg daily for a DVT in her right
leg.

She is also complaining of some abdominal pain that radiates to
her left flank.  This is similar to the pain that she had when
she had kidney stones in the past.  She denies any blood in her
urine.  Denies any recent infections.

 
Past Medical History:
HTN, HLD, DM2, gastritis, kidney stones
 
Social History:
from ___ originally, has 3 children
- tobacco: denies
- EtOH: denies
- illicits: denies
- MJ: denies
 
- Modified Rankin Scale:
[X] 0: No symptoms
[] 1: No significant disability - able to carry out all usual
activities despite some symptoms
[] 2: Slight disability: able to look after own affairs without
assistance but unable to carry out all previous activities
[] 3: Moderate disability: requires some help but able to walk
unassisted
[] 4: Moderately severe disability: unable to attend to own
bodily needs without assistance and unable to walk unassisted
[] 5: Severe disability: requires constant nursing care and
attention, bedridden, incontinent
[] 6: Dead

 
Family History:
no family history of stroke

 
Physical Exam:
ADMISSION EXAMINATION
=====================
Vitals: T: 98.6F P: 67 R: 16  BP: 142/68 SaO2: 97% RA
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no nuchal rigidity
Pulmonary: Normal work of breathing
Cardiac: RRR, warm, well-perfused
Abdomen: soft, non-distended
Extremities: No ___ edema.
Skin: no rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented x to self, hospital, ___.
Able to relate history without difficulty in ___. Attentive,
language is fluent with intact repetition and comprehension.
Normal prosody. There were no paraphasic errors. Pt was able to
name both high and low frequency objects in ___. Able to 
read
without difficulty in ___. Speech was not dysarthric. Able 
to
follow both midline and appendicular commands. 
-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. Visual acuity
___ bilaterally. Fundoscopic exam revealed no papilledema,
exudates, or hemorrhages.
V: decreased sensation to LT over left V1 and V2, V3 spared
VII: L nasolabial fold flattening with delayed activation when
compared to right
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE FE IP Quad Ham TA ___ 
L  4    5   4+  4+ ___    4  4    5      5   
R  5    ___  ___    5  5    5      5   

- Sensory: Decreased sensation to LT over left arm and leg
circumferentially. Extinguishes to DSS on the left 

- DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1

Plantar response was flexor bilaterally.

- Coordination: No dysmetria on FNF out of proportion to 
weakness

-Gait: deferred

DISCHARGE EXAMINATION
=====================
 Vitals: Temp: 97.8 (Tm 99.3), BP: 113/72 (113-138/69-86), HR: 
75
(59-80), RR: 16 (___), O2 sat: 98% (95-100), O2 delivery: Ra  
 General: awake, cooperative, NAD
 HEENT: NC/AT, no scleral icterus noted, MMM
 Pulmonary: breathing comfortably, no tachypnea or increased WOB
 Cardiac: skin warm, well-perfused
 Abdomen: soft, ND
 Extremities: symmetric, no edema

Neurologic:

-Mental Status: Alert, cooperative. Language is fluent with 
intact comprehension. Able to follow both midline and 
appendicular commands. 

-Cranial Nerves: EOMI without nystagmus. Facial sensation 
diminished on left to LT to 60% of right. Face symmetric at rest 
and with activation. Hearing intact to conversation. Palate 
elevates symmetrically. Tongue protrudes in midline.

-Motor: Full power on right; give-way weakness throughout left 
side but generally full on initial effort aside from left FE (>= 
4+/5) and IP (>= 4+/5).

-Sensory: Diminished to LT on left to 60% of right.

-DTRs: ___.

-Coordination: No dysmetria on FNF bilaterally, notably with 
little difficulty using left hand.
 
Pertinent Results:
___ 08:46AM BLOOD WBC-8.5 RBC-4.83 Hgb-13.6 Hct-41.8 MCV-87 
MCH-28.2 MCHC-32.5 RDW-12.4 RDWSD-38.6 Plt ___
___ 07:50AM BLOOD ___
___ 07:50AM BLOOD Glucose-157* UreaN-16 Creat-0.7 Na-139 
K-4.7 Cl-100 HCO3-27 AnGap-12
___ 07:50AM BLOOD Calcium-9.6 Phos-3.6 Mg-2.2
___ 07:42PM BLOOD ALT-19 AST-14 AlkPhos-68 TotBili-0.4
___ 07:42PM BLOOD Lipase-31
___ 07:42PM BLOOD cTropnT-<0.01
___ 12:17PM BLOOD %HbA1c-6.9* eAG-151*
___ 12:17PM BLOOD Triglyc-203* HDL-43 CHOL/HD-4.5 
LDLcalc-108
___ 12:17PM BLOOD TSH-3.3
___ 07:42PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 01:51PM URINE Color-Straw Appear-Clear Sp ___
___ 01:51PM URINE Blood-SM* Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-NEG
___ 01:51PM URINE RBC-10* WBC-<1 Bacteri-NONE Yeast-NONE 
Epi-1
___ 01:51PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG
___ 1:51 pm URINE      CVBS. 
                            **FINAL REPORT ___
   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION.

___ 12:24 ___ CTA HEAD W&W/O C & RECONS; CTA NECK W&W/OC & 
RECONS; CT BRAIN PERFUSION 
1. No evidence for acute intracranial hemorrhage or vascular 
territorial 
infarction. 
2. Grossly patent intracranial cervical vasculature without 
high-grade 
stenosis, occlusion, or aneurysm greater than 3 mm. 
3. No evidence for focal elevated mean transit time or decreased 
cerebral 
perfusion. 
4. Additional findings as above. 

___ 1:45 ___ CHEST (PA & LAT) 
No acute cardiopulmonary process.

Portable TTE (Complete) Done ___ at 2:55:43 ___
Suboptimal image quality. No intracardiac source of 
thromboembolism identified. Preserved global biventricular 
systolic function (cannot exclude regional dysfunction). 
Increased left ventricular filling pressure. Normal pulmonary 
artery systolic pressure.  

___ 10:32 AM MR HEAD W & W/O CONTRAST 
-No dural venous sinus thrombosis. No acute intracranial 
abnormalities 
identified. 
-Mild nonspecific paranasal sinus disease. 

 
Brief Hospital Course:
Patient is a ___ year old woman with history of hypertension, 
hyperlipidemia, diabetes, gastritis, DVT, who was admitted for 
multiple neurologic complaints most prominently of dizziness, 
pain, and left sided sensorimotor deficits. MRI brain was 
negative for acute stroke. Some of her symptoms were felt to be 
due to cervical  spondylosis, and she felt better with a trial 
of muscle relaxants. In addition, there was a component of 
functional weakness and sensory loss, which improved with 
physical therapy and reassurance. She was discharge home with 
home ___ services and with family offering to assist her.

For her DVT, she was maintained on Coumadin; she did have 
supratherapeutic INR on admission to 3.6, so Coumadin was held 
for two days and then resumed at home dose of 5mg daily once INR 
was 1.6. INR on date of discharge was 1.9, and she was 
discharged on her usual regimen.

Transitional issues:
[ ] Follow up INR on ___ or ___
[ ] Continue ___
[ ] Consider MRI c-spine as outpatient
 
Medications on Admission:
1. Warfarin 5 mg PO DAILY16 
2. Cyanocobalamin 1000 mcg PO DAILY 
3. Lisinopril 5 mg PO DAILY 
4. Atorvastatin 40 mg PO QPM 
5. Metoprolol Tartrate 25 mg PO DAILY 
6. GlipiZIDE 10 mg PO BID 
7. Pantoprazole 40 mg PO Q24H 

 
Discharge Medications:
1.  Cyclobenzaprine 5 mg PO HS:PRN neck spasm 
RX *cyclobenzaprine 5 mg 1 tablet(s) by mouth three times daily 
Disp #*30 Tablet Refills:*0 
2.  Atorvastatin 40 mg PO QPM  
3.  Cyanocobalamin 1000 mcg PO DAILY  
4.  GlipiZIDE 10 mg PO BID  
5.  Lisinopril 5 mg PO DAILY  
6.  Metoprolol Tartrate 25 mg PO DAILY  
7.  Pantoprazole 40 mg PO Q24H  
8.  Warfarin 5 mg PO DAILY16  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Cervicogenic disequilibrium 
Cervical spasm
Functional weakness

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear ___, 

You were admitted due to symptoms of headache, neck pain, 
dizziness,  and left arm and leg weakness and numbness. We 
performed an MRI of your brain that did NOT reveal an acute 
stroke, hemorrhage, or mass. We suspect your symptoms are due to 
pinching of the nerves in your neck due to arthritis, which is a 
process that many people have to varying degrees. With some 
physical therapy and treatment with a muscle relaxant, your 
symptoms improved. We believe you will continue to be stronger 
and feel better with therapy at home and use of the medications 
plus heat packs, however for the next few weeks you may require 
more assistance from your family to perform your usual tasks.

It was a pleasure taking care of you. We wish you the best!
Sincerely,
Your ___ Care Team
 
Followup Instructions:
___